US07569578B2
(±)-2-(7-Methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethanamine
A solution of benzyl 2-(7-methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethylcarbamate (70.0 mg, 0.156 mmol) in methanol (2.0 mL) was flushed with nitrogen, and treated with palladium (10% on charcoal, 7.0 mg). The flask was flushed with hydrogen and allowed to stir under a balloon of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Column chromatography gave 48.0 mg (quant.). Mass spec.: 314.17 (MH)+.

reactant | benzyl 2-(7-methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethylcarbamate | 0.156 mmol, 70.0 mg | CC=1C=C(C=C2C=NNC12)CC(C1=NN=NN1CC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C24H29N7O2
solvent | methanol | 2.0 mL | CO | CH4O
catalyst | palladium | 7.0 mg | [Pd] | Pd
product | (±)-2-(7-Methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethanamine | CC=1C=C(C=C2C=NNC12)CC(N)C1=NN=NN1CC(C)(C)C | C16H23N7
